US06541423B1
3.1 4-Methylbenzothiadiazole-5-carboxylic Acid
5 g of methyl 2-amino-4-methylbenzothiazole-5-carboxylate (0.02 mol) in 28.6 g of 50% strength KOH were stirred at 120° C. for 4 h. The mixture was then neutralized with 10% strength HCl and admixed with an excess of 40% strength NaNO2 solution at 0-10° C. The reaction mixture was acidified and extracted with ethyl acetate. The extract was washed and dried, and the product was obtained by stripping off the solvent. Yield: 1.3 g (28%).

reactant | methyl 2-amino-4-methylbenzothiazole-5-carboxylate | 0.02 mol, 5 g | NC=1SC2=C(N1)C(=C(C=C2)C(=O)OC)C | C10H10N2O2S
reactant | KOH | [OH-].[K+]
reactant | HCl | Cl | ClH
reactant | NaNO2 | N(=O)[O-].[Na+]
product | 4-Methylbenzothiadiazole-5-carboxylic Acid | CC1=C(C=CC2=C1N=NS2)C(=O)O | C8H6N2O2S
